US08003681B2
4-Ethyl-5,6,7,8-tetrahydro-naphthalen-1-ylamine
The procedure was essentially identical to the route for 4-Methyl-naphthalen-1-ylamine as described above, however, started with a solution of 5-ethyl-8-nitro-1,2,3,4-tetrahydro-naphthalene (795 mg, 3.95 mmol).

reactant | 4-Methyl-naphthalen-1-ylamine | CC1=CC=C(C2=CC=CC=C12)N | C11H11N
reactant | 5-ethyl-8-nitro-1,2,3,4-tetrahydro-naphthalene | 3.95 mmol, 795 mg | C(C)C1=C2CCCCC2=C(C=C1)[N+](=O)[O-] | C12H15NO2
product | 4-Ethyl-5,6,7,8-tetrahydro-naphthalen-1-ylamine | C(C)C1=CC=C(C=2CCCCC12)N | C12H17N
